US06384220B2
A solution of 2-(4-benzyloxy-phenyl)-3-cyclopentyl-propionic acid (0.15 g, 0.46 mmol) in methylene chloride (4.6 mL) was cooled to 0° C. and then treated with a 2.0M solution of oxalyl chloride in methylene chloride (0.25 mL, 0.50 mmol) and a few drops of N,N-dimethylformamide. The reaction mixture was stirred at 0° C. for 10 min and at 25° C. for 30 min. The reaction mixture was then treated with a solution of 2-aminothiazole (0.10 g, 1.01 mmol) and N,N-diisopropylethylamine (0.19 mL, 1.10 mmol) in tetrahydrofuran (2.3 mL). The reaction mixture was stirred at 25° C. for 18 h. At this time, the reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh 80/20 hexanes/ethyl acetate) afforded 2-(4-benzyloxy-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide (119.4 mg, 63.5%) as a white solid: mp 48-50° C.; EI-HRMS m/e calcd for C24H26N2O2S (M+) 406.1715, found 406.1716.

reactant | 2-(4-benzyloxy-phenyl)-3-cyclopentyl-propionic acid | 0.46 mmol, 0.15 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(=O)O)CC1CCCC1 | C21H24O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | 1.01 mmol, 0.10 g | NC=1SC=CN1 | C3H4N2S
reactant | N,N-diisopropylethylamine | 1.10 mmol, 0.19 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 4.6 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2.3 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 0.50 mmol, 0.25 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-benzyloxy-phenyl)-3-cyclopentyl-N-thiazol-2-yl-propionamide | 119.4 mg, 63.5% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)CC1CCCC1 | C24H26N2O2S
